US08114868B2
(S)-3-((S)-1-(4-(1-ethyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-6-(4-fluorophenyl) -6-(2-hydroxy-2-methylpropyl)-1,3-oxazinan-2-one
The title compound was prepared following a procedure analogous to that described in Example 59, using 5-bromopyridin-2(1H)-one and ethyl iodide in Step 1 and (S)-6-(4-fluorophenyl)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one in Step 2. LC-MS Method 2 tR=1.205 min, m/z=493.2; 1H NMR (CDCl3) 1.16 (d, 6H), 1.39 (t, 3H), 1.52 (d, 3H), 2.19 (s, 4H), 2.20-2.31 (m, 2H), 2.38-2.50 (m, 1H), 2.90 (m, 1H), 4.04 (m, 2H), 5.69 (m, 1H), 6.66 (d, 1H), 7.00 (m, 4H), 7.18 (d, 2H), 7.30 (m, 2H), 7.41 (s, 1H), 7.51 (d, 1H). Recrystallization from isopropyl acetate following a procedure analogous to that described for Example 37 in Recrystallization Method B afforded a crystalline solid with nip 172-173.6° C.

reactant | 5-bromopyridin-2(1H)-one | BrC=1C=CC(NC1)=O | C5H4BrNO
reactant | ethyl iodide | C(C)I | C2H5I
reactant | (S)-6-(4-fluorophenyl)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | FC1=CC=C(C=C1)[C@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)CC(C)(C)O | C28H37BFNO5
product | (S)-3-((S)-1-(4-(1-ethyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-6-(4-fluorophenyl) -6-(2-hydroxy-2-methylpropyl)-1,3-oxazinan-2-one | C(C)N1C=C(C=CC1=O)C1=CC=C(C=C1)[C@H](C)N1C(O[C@@](CC1)(CC(C)(C)O)C1=CC=C(C=C1)F)=O | C29H33FN2O4
